US05378803
Condensation of Boc-trp-Leu-OH (part B of example of above-cited U.S. Pat. No. 4,472,305, 14.0 g.) and H-Phe-OBzl (freed from 14.33 g. of the p-toluenesulfonate salt with sodium bicarbonate) using dicyclohexylcarbodiimide (6.91 g.) and N-hydroxysuccinimide (3.86 g.) in tetrahydrofuran (250 ml.) at 0° C. for 1 hr. and then at room temperature overnight, isolation by ethyl acetate extraction, and purification by crystallization from methanol-ether-hexane gave Boc-trp-Leu-Phe-OBzl (16.9 g., 77% yield, m.r. 140°-142° C.).

reactant | Boc-trp Leu-OH | CC(C)(C)OC(=O)N[C@@H](CC1=CC=2C=CC=CC2N1)C(=O)O.N[C@@H](CC(C)C)C(=O)O
reactant | H-Phe-OBzl | N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H17NO2
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dicyclohexylcarbodiimide | 6.91 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 3.86 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Boc-trp Leu-Phe-OBzl | 16.9 g, 77% yield | CC(C)(C)OC(=O)N[C@@H](CC1=CC=2C=CC=CC2N1)C(=O)O.N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C22H28N2O3.C16H20N2O4/c1-16(2)13-19(23)21(25)24-20(14-17-9-5-3-6-10-17)22(26)27-15-18-11-7-4-8-12-18;1-16(2,3)22-15(21)18-13(14(19)20)9-11-8-10-6-4-5-7-12(10)17-11/h3-12,16,19-20H,13-15,23H2,1-2H3,(H,24,25);4-8,13,17H,9H2,1-3H3,(H,18,21)(H,19,20)/t19-,20-;13-/m00/s1
